US08389527B2
To a solution of 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (60.0 mg, 0.110 mmol), acetaldehyde (14.56 mg, 0.331 mmol) and acetic acid (13.23 mg, 0.220 mmol) in DCM (2 mL) was stirred at room temperature for 5 minutes, then sodium triacetoxyborohydride (46.7 mg, 0.220 mmol) was added and the reaction was stirred at 25° C. for 2 hrs. The reaction mixture was concentrated down and treated with TFA (0.509 mL, 6.61 mmol) at 65° C. for 1 hr, concentrated, diluted in methanol and purified by preparative HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 30% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA) to isolate 8-(cyclopropylamino)-6-((trans)-4-(ethylamino)cyclohexylamino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (19.3 mg, 0.043 mmol, 38.7% yield). LC/MS (BEH C18 2.1×50 mm 1.7u, Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2.2 min with 1 min hold time, Flow rate=2 mL/min, detection at 254 nm, Solvent A: 100% water/0.05% TFA; Solvent B: 100% ACN/0.05% TFA). Rt=0.67 minutes [M+H]=453.2. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, s), 8.21 (1H, d, J=5.52 Hz), 7.96 (1H, s), 7.60 (1H, d, J=1.51 Hz), 7.51 (2H, s), 6.86-7.03 (1H, m), 5.98 (1H, s), 3.57-3.76 (1H, m), 2.56 (2H, d, J=7.03 Hz), 2.33-2.47 (1H, m), 2.02-2.20 (2H, m), 1.80-2.02 (2H, m), 1.18-1.37 (2H, m), 1.04-1.18 (2H, m), 1.01 (3H, t, J=7.03 Hz), 0.69-0.85 (2H, m), 0.53-0.71 (2H, m) and 8-(cyclopropylamino)-6-((trans)-4-(diethylamino)cyclohexylamino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (25.6 mg, 0.053 mmol, 48.4% yield).). LC/MS (BEH C18 2.1×50 mm 1.7u, Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2.2 min with 1 min hold time, Flow rate=2 mL/min, detection at 254 nm, Solvent A: 100% water/0.05% TFA; Solvent B: 100% ACN/0.05% TFA). Rt=0.69 minutes [M+H]=481.3. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.33-11.48 (1H, m), 8.29-8.48 (1H, m), 8.21 (1H, d, J=5.52 Hz), 7.98 (1H, s), 7.64 (1H, d, J=1.25 Hz), 7.53-7.63 (1H, m), 7.51 (1H, s), 6.97-7.11 (1H, m), 6.00 (1H, s), 3.62-3.81 (1H, m), 2.97-3.14 (1H, m), 2.92 (4H, q, J=7.28 Hz), 2.15-2.32 (2H, m), 1.95-2.09 (2H, m), 1.49-1.67 (2H, m), 1.27-1.46 (2H, m), 1.02-1.30 (6H, m), 0.71-0.85 (2H, m), 0.56-0.72 (2H, m)

reactant | 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.110 mmol, 60.0 mg | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)F)N(CC2=CC=C(C=C2)OC)C2CC2 | C29H33FN8O2
reactant | acetaldehyde | 0.331 mmol, 14.56 mg | C(C)=O | C2H4O
reactant | acetic acid | 0.220 mmol, 13.23 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.220 mmol, 46.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | TFA | 6.61 mmol, 0.509 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 8-(cyclopropylamino)-6-((trans)-4-(ethylamino)cyclohexylamino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.043 mmol, 19.3 mg, 38.7% yield | C1(CC1)NC=1C=2N(N=C(C1)N[C@@H]1CC[C@H](CC1)NCC)C(=CN2)C(=O)NC2=CC(=NC=C2)F | C23H29FN8O
